US06197217B1
First, 10.0 g (32.4 mmol) of 3,3′-difluoro-4′-methoxymethoxy-4-propoxybiphenyl [which was obtained by cross-coupling reaction of 3-fluoro-4-methoxymethoxybromobenzene with dihydroxy(3-fluoro-4-propoxyphenyl)borane in the presence of Pd catalyst], 50 ml of methanol, and 10 ml of a concentrated hydrochloric acid were heated to reflux for 3 hours. Then, 50 ml of water was added to the reaction solution and extracted with 150 ml of diethyl ether. The organic layer thus obtained was washed with a diluted aqueous sodium bicarbonate solution twice and with water thrice, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure to obtain 8.5 of a crude 3,3′-difluoro-4′- hydroxy-4-propoxybiphenyl. (Yield: 99.8%)

reactant | 3-fluoro-4-methoxymethoxybromobenzene | FC=1C=C(C=CC1OCOC)Br | C8H8BrFO2
reactant | dihydroxy(3-fluoro-4-propoxyphenyl)borane | OB(C1=CC(=C(C=C1)OCCC)F)O | C9H12BFO3
reactant | hydrochloric acid | 10 ml | Cl | ClH
catalyst | Pd | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 3,3′-difluoro-4′-methoxymethoxy-4-propoxybiphenyl | 32.4 mmol, 10.0 g | FC=1C=C(C=CC1OCCC)C1=CC(=C(C=C1)OCOC)F | C17H18F2O3
